US07365211B2
A flask containing 7-bromo-2,3-dimethyl-2H-indazole (3.23 g, 14.4 mmol), 2,4,6-trimethylphenyl boronic acid (3.51 g, 21.4 mmol), freshly ground potassium phosphate (6.04 g, 28.5 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.225 g, 0.572 mmol), and palladium(II) acetate (0.032 g, 0.14 mmol) was evacuated and back-filled with nitrogen. Toluene (50 mL) was added, and the yellow-orange mixture was stirred at 100° C. for 22 h then allowed to cool. Ether (200 mL) was added, and the yellow solution was decanted from a dark granular solid. The organic layer was sequentially washed with 200 mL of a 10% aqueous NaOH solution and 200 mL of a saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated to a pale yellow solid. Column chromatography (0→33% EtOAc/hexanes) afforded 2,3-dimethyl-7-(2,4,6-trimethyl-phenyl)-2H-indazole as an off-white solid (7: R=R′=Me, Ar=2,4,6-trimethylphenyl; 3.03 g, 79%; m.p. 162-164).

reactant | 7-bromo-2,3-dimethyl-2H-indazole | 14.4 mmol, 3.23 g | BrC1=CC=CC2=C(N(N=C12)C)C | C9H9BrN2
reactant | 2,4,6-trimethylphenyl boronic acid | 21.4 mmol, 3.51 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | potassium phosphate | 28.5 mmol, 6.04 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.572 mmol, 0.225 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | palladium(II) acetate | 0.14 mmol, 0.032 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,3-dimethyl-7-(2,4,6-trimethyl-phenyl)-2H-indazole | CN1N=C2C(=CC=CC2=C1C)C1=C(C=C(C=C1C)C)C | C18H20N2
